US04769472
3-(3-Epoxymethoxyphenyl)thieno[2,3-d]isoxazole
A mixture of 28 g of 3-(3-hydroxyphenyl)thieno[2,3-d]isoxazole, 23 g of epibromohydrin and 30 g of milled potassium carbonate in 40 ml of dimethylformamide and 40 ml of acetonitrile was stirred under nitrogen at 90°-100° C. until completion of reaction. The reaction was complete after 4 hours and allowed to cool to room temperature. Quenching with water (400 ml), extracting with 50/50 ether/ethyl acetate soluiton (3×400 ml), and washing with water (2×400 ml) were conducted. The organics were dried over anhydrous magnesium sulfate and the solvents were evaporated to give an oil. The oil was purified by HPLC (4:1 hexane/ethyl acetate) to yield 23.3 g of a solid with a melting point of 88°-90° C.

reactant | 3-(3-hydroxyphenyl)thieno[2,3-d]isoxazole | 28 g | OC=1C=C(C=CC1)C1=NOC2=C1SC=C2 | C11H7NO2S
reactant | epibromohydrin | 23 g | C(Br)C1CO1 | C3H5BrO
reactant | potassium carbonate | 30 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 3-(3-Epoxymethoxyphenyl)thieno[2,3-d]isoxazole | 23.3 g | O1C=2C(=C(C=CC21)C2=NOC1=C2SC=C1)OC | C12H7NO3S
